US07592358B2
30.1d. 5-bromo-2-(2-pyrrolidin-1-ylethoxy)benzylamine
0.66 g (2.50 mmol) of triphenylphosphine was added to a solution of 0.40 g (1.23 mmol) 1-[2-(2-azidomethyl-4-bromophenoxy)ethyl]pyrrolidine in 5 mL of THF and the mixture was stirred for 30 minutes at RT. Water was added and the aqueous phase was exhaustively extracted with DCM. The combined organic extracts were dried over magnesium sulfate and evaporated down in vacuo. Yield: 0.185 g (50% of theoretical); C13H19BrN2O (M=299.207); calc.: molpeak (M+H)+: 299/301 (Br); found: molpeak (M+H)+: 299/301 (Br); HPLC-MS: 1.38 minutes (method A).

reactant | triphenylphosphine | 2.50 mmol, 0.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-[2-(2-azidomethyl-4-bromophenoxy)ethyl]pyrrolidine | 1.23 mmol, 0.40 g | N(=[N+]=[N-])CC1=C(OCCN2CCCC2)C=CC(=C1)Br | C13H17BrN4O
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(2-pyrrolidin-1-ylethoxy)benzylamine | BrC=1C=CC(=C(CN)C1)OCCN1CCCC1 | C13H19BrN2O
